US08580974B2
N,N,N′,N′-tetramethylformamidinium methylsulfate (3 g) is added to water (25 ml) and the resulting mixture is cooled to 0° C. This mixture is then added to a cooled solution of ammonium hexafluorophosphate (4.6 g) in water (25 ml). The so formed precipitate is then collected by filtration. The precipitate is washed with cold water (2×10 ml) and then with diethyl ether (10 ml). Drying in vacuo gives N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (18, R6=Me, R7=Me) as a white solid. 1H NMR (DMSO-d6), 7.90 (1H), 3.26 (6H), 3.14 (6H).

reactant | N,N,N′,N′-tetramethylformamidinium methylsulfate | 3 g | COS(=O)(=O)[O-].CN(C=[N+](C)C)C
reactant | ammonium hexafluorophosphate | 4.6 g | F[P-](F)(F)(F)(F)F.[NH4+]
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | F[P-](F)(F)(F)(F)F.CN(C=[N+](C)C)C | InChI=1S/C5H13N2.F6P/c1-6(2)5-7(3)4;1-7(2,3,4,5)6/h5H,1-4H3;/q+1;-1
